US07482336B2
Step A: N,N-Dimethyl-N′-pyrazin-2-ylimidoformamide
A solution of 2-aminopyrazine (16.45 g) in dimethylformamide dimethylacetal (22.4 g) was refluxed at 85° C. for 3 h, evaporated under reduced pressure, and used in the next step without further purification.

reactant | 2-aminopyrazine | 16.45 g | NC1=NC=CN=C1 | C4H5N3
reactant | dimethylformamide dimethylacetal | 22.4 g | COC(N(C)C)OC | C5H13NO2
product | N,N-Dimethyl-N′-pyrazin-2-ylimidoformamide | CN(C=NC1=NC=CN=C1)C | C7H10N4
